2196-03-05 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2196-3-5**] 03:54 AM
   - ABX broadened
   - LP, no signs of infection
   - 1 generalized seizure, aborted with 2mg Ativan IV x1
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-3-5**] 03:30 AM
   Ceftriaxone - [**2196-3-5**] 04:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-5**] 07:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-5**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-5**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-5**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 95 (67 - 103) bpm
   BP: 101/57(65) {101/52(65) - 133/86(95)} mmHg
   RR: 24 (9 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,010 mL
                                                                    825 mL
   PO:
             TF:
   IVF:
                                                                     10 mL
                                                                    825 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    485 mL
   Urine:
                                                                    340 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,670 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.35/49/99.[**Numeric Identifier 126**]/27/0
   Physical Examination
   GENERAL: Obese gentleman, minimally responsive, L shoulder spontaneous
   shoulder jerking movements
   HEENT: Lower lip appears swollen, would not cooperate with ENT exam.
   No partoid, mandibular or neck tenderness, no LAD, no thyromegaly
   appreciated.  Large tongue, Prominent upper airway expiratory
   wheeze/vibratory sound
   CARDIAC: S1 & s2 regular, unable to appreciate murmur
   LUNG:  Good air movement, similar expiratory sound appreciated
   obscuring lung or other adventitious sounds
   ABDOMEN: Non tender, non distended
   EXT: Significant edema to knees bilaterally, confirmed chronic per his
   caretaker
   NEURO: withdraws to pain, occasionally opens R eye (which dilates) to
   voice. Unable to assess strength, distal sensation/pain intact.
   DERM: No lesions on posterior, no ulcers
   Labs / Radiology
   127 K/uL
   12.4 g/dL
   85 mg/dL
   0.8 mg/dL
   27 mEq/L
   5.0 mEq/L
   17 mg/dL
   114 mEq/L
   146 mEq/L
   36.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
   WBC
   4.8
   Hct
   36.8
   Plt
   127
   Cr
   0.8
   TCO2
   28
   Glucose
   85
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.4
   mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: CSF
   Chemistry   Protein
   90    Glucose
   44
   TUBE #4
     CSF     WBC
   1    RBC
   201
     Poly
   0    Lymph
   67    Mono
   33    EOs
   Comments: CSF WBC: Clear And Colorless
   CSF Polys: 9 Cell Differential
   [**2196-3-5**]
   03:59a
   -----------------------------------------------------------------------
   ---------
   TUBE #1
     CSF     WBC
   2    RBC
   1350
     Poly
   15    Lymph
   69    Mono
   15    EOs
   Atyps: 1
   Imaging: Neck CT: No signs of infection on wet read
   Microbiology: CSF Gram Stain & Culture pending
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
   A 51 year old gentleman with Cerebral Palsy, Mental retardation and an
   active seizure disorder presents with hypothermia, bradycardia,
   leukopenia and altered mental status after URI symptoms without clear
   localizing signs of infection.
   .
   #. Hypothermia: Resolved.
   Unasyn/[**First Name9 (NamePattern2) 339**]
   [**Last Name (un) **] Stim
   The patient's hypothermia without exposure to the elements is
   concerning for severe sepsis or thyroid dysfunction.  Given his recent
   URI symptoms, despite a clear chest X-ray, an oropharyngeal source such
   as an abscess or foreign body causing abscess or PNA are most likely.
   Successfully warming at this time.
   - Bair hugger to re-warm slowly
   - Change antibiotic coverage to Unasyn for Aspiration PNA, oral flora,
   Staph, Strep, Gram - other than PSA
   - Stat TSH, T3, T4 & Cortisol to rule out myxedema coma
   - F/U blood, urine cultures
   - CTA Neck to rule out neck pathology
   - C. diff
   .
   #. Altered Mental Status: Although the patient has mental retardation,
   he is clearly not at baseline per his long time caretaker.  [**Name (NI) **] is less
   responsive and more somnolent.  Possible causes include Sepsis from
   CNS, Oral source or C. diff infection, Phenytoin toxicity, Keppra
   toxicity, Carbamazepine toxicity, myxedema coma.
   - Hypothermia/Sepsis workup as above
   - ABG to evaluate respiratory status
   - F/U Drug levels
   - LP to r/o meningitis
   - Serum/Urine Tox
   - Add on LFTs
   .
   #. Seizure disorder: Seized once today, controlled with ativan.
   Phenytoin levels elevated, but not outside of his previous ranges
   - Switch to IV Fosphenytoin
   - Continue Keppra as IV, hold Carbamazepine until taking PO
   - Ativan IV for status epilepticus
   - Seizure/fall precautions
   - Neuro
   .
   #. Bradycardia: Likely from hypothermia, rate improved with warming,
   plan as above.
   .
   #. Hypernatremia/Hyperchloremia- Prior to fluid hydration, likely from
   poor PO intake.
   - Repeat lytes, reasses
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: Presumed Full
   # CONTACT:  [**First Name8 (NamePattern2) 13475**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 13477**], [**Telephone/Fax (1) 13478**]
   # DISPO: ICU
   .
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4777**] MD, MPH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-03-05 09:12:00 Physician Attending Progress Note
Chief Complaint: Hypotension, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with mental retardation p/w to [**Company **] with persistent upper
   respiratory symptoms, cough and upper airway ?stridor.  He was found to
   have a rectal temp of 89F.  In ED, empiric Ctx and levaquin.  Had a
   brief GTC seizure.  Intermittely hypotensive but always responsive to
   IVF.
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2196-3-5**] 03:54 AM
 LUMBAR PUNCTURE - At [**2196-3-5**] 04:02 AM
   Another localized seizure overnight, received ativan to break.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-3-5**] 03:30 AM
   Ceftriaxone - [**2196-3-5**] 04:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-5**] 07:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-5**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-5**] 03:00 AM
   Other medications:
   Keppra
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: hypothermia
   Gastrointestinal: Diarrhea
   Psychiatric / Sleep: Delirious
   Pain: Unable to answer
   Flowsheet Data as of  [**2196-3-5**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 88 (67 - 103) bpm
   BP: 104/41(57) {101/41(57) - 133/86(95)} mmHg
   RR: 22 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,010 mL
                                                                  1,074 mL
   PO:
             TF:
   IVF:
                                                                     10 mL
                                                                  1,074 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    585 mL
   Urine:
                                                                    340 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,670 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.35/49/99.[**Numeric Identifier 126**]/27/0
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: primarily suprasternal)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   127 K/uL
   85 mg/dL
   0.8 mg/dL
   27 mEq/L
   5.0 mEq/L
   17 mg/dL
   114 mEq/L
   146 mEq/L
   36.8 %
   4.8 K/uL
         [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
   WBC
   4.8
   Hct
   36.8
   Plt
   127
   Cr
   0.8
   TCO2
   28
   Glucose
   85
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.4
   mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: CSF: nml glucose, 1 WBC
   Imaging: CXRL LL atelectasis
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   --Recurrent seizure though this is his baseline.  Question of ongoing
   seizure with right shoulder movements.
   Neuro consult given complex seizure history.
 HYPOTHERMIA:  Now resolved.  Possible causes include sepsis, adrenal
   insufficiency.
   Check [**Last Name (un) 402**] stim given relatively low cortisol in setting of stress.
   Cont vanco and zosyn pending cultures.
   ENT consult for upper airway rhonchi and concern for pharyngeal
   infectious source
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   LP unremarkable for evidence of CNS infection.  Tox-met w/u neg to
   date.
   [**Month (only) 51**] be related to adrenal insufficiency, infection, post-ictal state,
   AEDs.
   Neuro consult for possibility of ongoing seizure.
   F/u cultures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code,need to confirm with guardian
   Disposition :ICU
   Total time spent: 75 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 347**]
s note,
   including assessment and plan. I would add:
   51 yo male with CP, MR, chronic seizure disorder admitted with AMS,
   hypothermia, and recurrent seizures. Overnight he had another seizure
   which broke with ativan. He is not verbal or responsive to commands,
   though it is unclear if this differs from his baseline. LP
 1 WBC,
   glucose 44, protein 90, neg. GS
   For AMS, diff dx includes infxn vs seizure/post ictal . Pt
s mental
   status hard to interpret, getting EEG to r/o status epilepticus. Have
   requested neurology input. For hypothermia, is improving with bear
   hugger. [**Last Name (un) **] stem test was inconclusive as a cortisol level was
   inadvertenly not drawn right before cosyntropin administration. Still
   concerned over infectious source- on vanc/zosyn to cover broadly, also
   acyclovir for empiric HSV.
   Pt is critically ill. Total time spent: 45 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2196-3-5**] 21:08 ------

2196-03-06 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2196-3-5**] 07:00 PM
   Continuous
   - called ENT and neuro
   - per ENT, CT effectively ruled out upper airway abscess
   - stopped ceftriaxone - on vanc and unasyn
   - source of infxn still unclear
   - guardian is [**Name (NI) 2057**] [**Name (NI) 13476**] [**Telephone/Fax (1) 13525**] (office), [**Telephone/Fax (1) 13526**] (cell)
   :::
   Neuro recommends:
     - order EEG, 24 h
     - hsv pcr add-on to csf
     - start acyclovir empirically, with IVF
     - NG tube home dose of tegretol (immediate release per NGT)
     - ativan .5 q6 standing until dilantin level normalizes
     - troughs:  free dilantin level, carbapene level, keppra level-
     - hold dilantin until level normalizes
   :::
   - [**Last Name (un) 402**] stim 18-->32
   - epilepsy called to say that seizure-like activity on EEG looks
   bad....calling neuro back--> rec increasing carbamazepine, done
   - continued difficulty regulating temp - hypothermic without
   bear-hugger, ? dysautonomia?
   - getting D5 1/2 NS given mild hypernatremia + need to hydrate with
   acyclovir
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-3-5**] 04:30 AM
   Vancomycin - [**2196-3-5**] 08:30 PM
   Acyclovir - [**2196-3-6**] 12:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-6**] 02:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-6**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-6**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-6**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96.1
   HR: 71 (70 - 91) bpm
   BP: 95/62(71) {87/41(57) - 122/80(87)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,122 mL
                                                                  1,280 mL
   PO:
             TF:
   IVF:
                                                                  4,952 mL
                                                                  1,280 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    860 mL
   Urine:
                                                                  2,000 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,122 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: not responsive bear hugger in place
   HEENT: Lower lip appears swollen, would not cooperate with ENT exam.
   No partoid, mandibular or neck tenderness, no LAD, no thyromegaly
   appreciated.  Large tongue, Prominent upper airway expiratory
   wheeze/vibratory sound
   CARDIAC: S1 & s2 regular, unable to appreciate murmur
   LUNG:  course breath sounds throughout
   ABDOMEN: Non tender, non distended
   EXT: Significant edema to knees bilaterally,
   NEURO: withdraws to pain, occasionally opens R eye (which dilates) to
   voice. Unable to assess strength, distal sensation/pain intact.
   DERM: No lesions on posterior, no ulcers
   Labs / Radiology
   108 K/uL
   11.6 g/dL
   99 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   112 mEq/L
   144 mEq/L
   35.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
   WBC
   4.8
   5.3
   Hct
   36.8
   35.7
   Plt
   127
   108
   Cr
   0.8
   1.0
   TCO2
   28
   Glucose
   85
   99
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Micro data:  NGTD
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
   A 51 year old gentleman with Cerebral Palsy, Mental retardation and an
   active seizure disorder presents with hypothermia, bradycardia,
   leukopenia and altered mental status after URI symptoms without clear
   localizing signs of infection.  Possible seizure.
   .
   #. Hypothermia: Intermittently hypothermic without any infectious
   source identified.  Thus, he may not have sepsis as his underlying
   cause.  [**Month (only) 51**] have a neurological dysautonomia related to current neuro
   issues. [**Last Name (un) **] stim rueld out adrenal insufficiency, no thyroid disease.
   - stop antibiotics given no evidence of active infection
   - F/U blood, urine cultures, C diff
   - discuss with neuro and epilepsy team regarding the potential
   neurologic causes of hypothermia
   .
   #. Altered Mental Status: Combination of seizure disorder, post-ictal
   state and baseline MR. Not improving today.
   - Hypothermia/Sepsis workup as above
   - F/U Drug levels
   - f/u neurology recs
   - continue acyclovir for empiric HSV encephalitis until PCR returns
   from CSF
   .
   #. Seizure disorder: Seized once today, controlled with ativan.
   Phenytoin levels elevated, but not outside of his previous ranges
   - Continue Keppra as IV, increased dose of Carbamazepine
   - continue Ativan standing
   - Seizure/fall precautions
   - Neuro recs
   .
   #. Bradycardia: Likely from hypothermia, rate improved with warming,
   plan as above.
   .
   #. Hypernatremia/Hyperchloremia- Likely volume depletion
   - D5
 NS 200cc/h x 2 L because of hypernatremia and need for
   intravascular volume in the setting of acyclovir
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: Presumed Full, will call Guardian again
   # CONTACT:  [**First Name8 (NamePattern2) 13475**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 13477**], [**Telephone/Fax (1) 13478**]
   # DISPO: ICU

2196-03-06 09:51:00 Physician Attending Progress Note
Chief Complaint: Hypothermia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with CP p/w hypothermia, transient hypotension
   24 Hour Events:
 EEG - At [**2196-3-5**] 07:00 PM
   continuous
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-3-5**] 04:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-6**] 07:24 AM
   Acyclovir - [**2196-3-6**] 08:25 AM
   Vancomycin - [**2196-3-6**] 09:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-6**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-6**] 06:05 AM
   Other medications:
   Keppra, Thiamine, Tegretol, Ativan q6h.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: hypothermia
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2196-3-6**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.5
C (95.9
   HR: 75 (70 - 91) bpm
   BP: 98/59(68) {87/48(60) - 122/80(87)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  5,122 mL
                                                                  2,303 mL
   PO:
             TF:
   IVF:
                                                                  4,952 mL
                                                                  2,243 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                  1,330 mL
   Urine:
                                                                  2,000 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,122 mL
                                                                    973 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   108 K/uL
   99 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   112 mEq/L
   144 mEq/L
   35.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
   WBC
   4.8
   5.3
   Hct
   36.8
   35.7
   Plt
   127
   108
   Cr
   0.8
   1.0
   TCO2
   28
   Glucose
   85
   99
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM):
   Continue free water.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   Continuous EEG.  Continue current AED regimen per neuro
   recommendations.
 HYPOTHERMIA:
   Temperature down again overnight with removal of passive warming.
   No evidence of infection, hypothyroidism, adrenal insuff, other
   systemic cause.  D/c antibiotics with cultures all remaining negative.
   Possibly related to central neuro process.  Will d/w neuro MRI brain.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Remains unchanged.  At this point, with aggressive AED regimen.
   ICU Care
   Nutrition: Initiate TFs
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined MR. [**Known lastname 13474**] with Dr. [**Last Name (STitle) 347**]; his note and the ICU
   team note from today reflect my input.  I would add/emphasize that this
   51 y/o man with complex neurologic history presented with hypotension
   and hypothermia.  Hypotension has improved, but hypothermia persists
   (close to normothermic, but requiring Bair hugger).  Has had some
   localized seizures.  Exam shows somnolence with some upper airway
   sounds, regular heart, clear lungs, soft abdomen.  Meds, labs, and
   imaging all reviewed.
   Assessment and Plan
   51 y/o man with encephalopathy, hypotension (resolved), and hypothermia
   (ongoing).  Hypothermia is quite perplexing.  He does not appear
   overtly septic (though conceivable).  Adrenal insufficiency adequately
   excluded, as is hypothyroidism.  Clearly not environmental related.  We
   are left with potential neurologic causes predominating.  Hypothalamic
   issues might be at play
 he has some hypernatremia and relatively
   [**Name2 (NI) 4886**] urine output.  Will consult neurology for their thoughts (as well
   as assistance with management of complex seizure disorder), continue
   EEG, consider MRI, and evaluate urine Osm.  If dilute urine, then
   consider further evaluation for diabetes insipidus.  Other issues as
   per Dr. [**Last Name (STitle) 347**].
   Critically ill: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2196-3-6**] 17:01 ------

2196-03-07 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - head MRI ordered
   - still hypothermic requiring warming blanket
   - urine osm checked to r/o diabetes insipidus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-3-5**] 04:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-6**] 07:24 AM
   Vancomycin - [**2196-3-6**] 09:09 AM
   Acyclovir - [**2196-3-7**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-7**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-7**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 88 (73 - 88) bpm
   BP: 132/71(84) {98/51(64) - 138/73(86)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  5,944 mL
                                                                  1,623 mL
   PO:
             TF:
                                                                    191 mL
                                                                    278 mL
   IVF:
                                                                  5,232 mL
                                                                    885 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                  1,460 mL
   Urine:
                                                                  3,230 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,714 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   12.0 g/dL
   89 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   7 mg/dL
   113 mEq/L
   144 mEq/L
   35.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
                             [**2196-3-7**]  03:12 AM
   WBC
   4.8
   5.3
   4.9
   Hct
   36.8
   35.7
   35.6
   Plt
   127
   108
   110
   Cr
   0.8
   1.0
   0.8
   TCO2
   28
   Glucose
   85
   99
   89
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
   A 51 year old gentleman with Cerebral Palsy, Mental retardation and an
   active seizure disorder presents with hypothermia, bradycardia,
   leukopenia and altered mental status after URI symptoms without clear
   localizing signs of infection.  Possible seizure.
   .
   #. Hypothermia: Intermittently hypothermic without any infectious
   source identified.  Thus, he may not have sepsis as his underlying
   cause.  [**Month (only) 51**] have a neurological dysautonomia related to current neuro
   issues. [**Last Name (un) **] stim rueld out adrenal insufficiency, no thyroid disease.
   - stop antibiotics given no evidence of active infection
   - F/U blood, urine cultures, C diff
   - discuss with neuro and epilepsy team regarding the potential
   neurologic causes of hypothermia
   .
   #. Altered Mental Status: Combination of seizure disorder, post-ictal
   state and baseline MR. Not improving today.
   - Hypothermia/Sepsis workup as above
   - F/U Drug levels
   - f/u neurology recs
   - continue acyclovir for empiric HSV encephalitis until PCR returns
   from CSF
   .
   #. Seizure disorder: Seized once today, controlled with ativan.
   Phenytoin levels elevated, but not outside of his previous ranges
   - Continue Keppra as IV, increased dose of Carbamazepine
   - continue Ativan standing
   - Seizure/fall precautions
   - Neuro recs
   .
   #. Bradycardia: Likely from hypothermia, rate improved with warming,
   plan as above.
   .
   #. Hypernatremia/Hyperchloremia- Likely volume depletion
   - D5
 NS 200cc/h x 2 L because of hypernatremia and need for
   intravascular volume in the setting of acyclovir
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: Presumed Full, will call Guardian again
   # CONTACT:  [**First Name8 (NamePattern2) 13475**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 13477**], [**Telephone/Fax (1) 13478**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2196-3-7**] 01:34 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-03-07 11:12:00 Physician Attending Progress Note
Chief Complaint: Hypothermia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Persistent hypotheremia, MRI this am. EEG with seizures, now on
   standing ativan in addition outpatient dilantin, keppra and
   carbamezapime.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-3-5**] 04:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-6**] 07:24 AM
   Vancomycin - [**2196-3-6**] 09:09 AM
   Acyclovir - [**2196-3-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2196-3-7**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-3-7**] 10:00 AM
   Other medications:
   heparin s/c tid, timolol eye drop, keppra 500 q24, thiamine, acyclovir
   800 q8, ativan 0.5 iv q6, carbamezapime ,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-7**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (73 - 90) bpm
   BP: 125/53(71) {100/51(64) - 138/73(86)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  5,944 mL
                                                                  2,042 mL
   PO:
             TF:
                                                                    191 mL
                                                                    287 mL
   IVF:
                                                                  5,232 mL
                                                                  1,295 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                  2,250 mL
   Urine:
                                                                  3,230 mL
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,714 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   PERL on the right, cataract on the left.
   Well nourished, snoring in NAD
   Lungs rhonchorous throught out likely transmitted upper respiratory
   sounds
   S1, S2 RRR, no murmurs appreciated
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  warm
   LE 2+ edema.
   Neurologic: Responds to: grimaces to sternal rub, Movement: No
   spontaneous movement, Tone: increased.
   Labs / Radiology
   12.0 g/dL
   110 K/uL
   89 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   7 mg/dL
   113 mEq/L
   144 mEq/L
   35.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
                             [**2196-3-7**]  03:12 AM
   WBC
   4.8
   5.3
   4.9
   Hct
   36.8
   35.7
   35.6
   Plt
   127
   108
   110
   Cr
   0.8
   1.0
   0.8
   TCO2
   28
   Glucose
   85
   99
   89
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: dilantin level pending.
   Assessment and Plan
   Hypothermia: r/o hypothyroidism, sepsis, pancreatitis, exposure to the
   elements, adrenal insufficiency, hypopitutarism,  hypothimainemia,
   hypoglycemia. ? other neuro cause will obtain MRI. f/u LP HSV PCR
   today.
   Hypernatremia: improved with free water repleiton
   FEN:continue tube feeds
   Seizures: will follow up contiuous EEG on standing ativan.
   Goals of care: will reattempt making contact with his HCP/guardian
   again and consult ethics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined this pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
   note, including assessment and plan. 51 yo male with CP, MR, seizure
   disorder admitted with AMS, ongoing seizures and hypothermia of unclear
   cause.  Evaluation for AMS has mostly revealed seizures with MRI
   pending this morning to evaluate for other structural disease.
   Infection, adrenal or thyroid abnormalities, thiamine deficiency,
   environmental  have been excluded as etiologies for hypothermia leaving
   us mostly with neurological causes. Will f/u MRI, anti-epileptic
   management per Neuro, on Acyclovir pending return of HSV CSF PCR.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2196-3-7**] 14:13 ------

2196-03-08 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2196-3-7**] 11:00 AM
   - Neuro agreed to take to stepdown/floor in AM if stable
   - MRI no significant findings
   - No heating blanket overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-6**] 07:24 AM
   Vancomycin - [**2196-3-6**] 09:09 AM
   Acyclovir - [**2196-3-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-8**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-8**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-8**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 80 (75 - 91) bpm
   BP: 156/77(99) {112/53(69) - 159/98(125)} mmHg
   RR: 25 (17 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  3,701 mL
                                                                  1,423 mL
   PO:
             TF:
                                                                  1,165 mL
                                                                    633 mL
   IVF:
                                                                  1,576 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  1,725 mL
   Urine:
                                                                  4,065 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -364 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   GENERAL: not responsive, bear hugger in place
   HEENT: Lower lip appears swollen, would not cooperate with ENT exam.
   No partoid, mandibular or neck tenderness, no LAD, no thyromegaly
   appreciated.  Large tongue, Prominent upper airway expiratory
   wheeze/vibratory sound
   CARDIAC: S1 & s2 regular, unable to appreciate murmur
   LUNG:  course breath sounds throughout
   ABDOMEN: Non tender, non distended
   EXT: Significant edema to knees bilaterally,
   NEURO: withdraws to pain, occasionally opens R eye (which dilates) to
   voice. Unable to assess strength, distal sensation/pain intact.
   DERM: No lesions on posterior, no ulcers
   Labs / Radiology
   119 K/uL
   12.3 g/dL
   93 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.2 mEq/L
   11 mg/dL
   109 mEq/L
   143 mEq/L
   35.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
                             [**2196-3-7**]  03:12 AM
                             [**2196-3-8**]  04:27 AM
   WBC
   4.8
   5.3
   4.9
   5.8
   Hct
   36.8
   35.7
   35.6
   35.0
   Plt
   127
   108
   110
   119
   Cr
   0.8
   1.0
   0.8
   0.7
   TCO2
   28
   Glucose
   85
   99
   89
   93
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Phenytoin: 19.2
   Imaging: MRI Head: IMPRESSION: Brain and cerebellar atrophy. No
   abnormal signal within the hippocampal regions or other focal
   abnormalities. Ventricular changes
   described could be consistent with periventricular leukomalacia and
   patient's
   history of cerebral palsy. No enhancing brain lesions.
   Microbiology: Blood Cx pending
   Assessment and Plan
   A 51 year old gentleman with Cerebral Palsy, Mental retardation and an
   active seizure disorder presents with hypothermia, bradycardia,
   leukopenia and altered mental status after URI symptoms without clear
   localizing signs of infection.  Possible seizure.
   .
   #. Hypothermia: Intermittently hypothermic without any infectious
   source identified.  No evidence of sepsis, endocrinopathy, meds-related
   causes. Most likely from CNS.
   - discuss with neuro and epilepsy team regarding the potential
   neurologic causes of hypothermia
   .
   #. Altered Mental Status: Combination of seizure disorder, post-ictal
   state and baseline MR. Not improving today.
   - Hypothermia/Sepsis workup as above
   - F/U Drug levels
   - f/u neurology recs
   - continue acyclovir for empiric HSV encephalitis until PCR returns
   from CSF
   .
   #. Seizure disorder: Seized the day before yesterday, controlled with
   ativan. Phenytoin levels elevated, but not outside of his previous
   ranges.
   - Continue levetiracetam, carbamazepine
   - hold phenytoin due to elevated levels; repeat level today
   - continue lorazepam
   - Neuro recs
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: Presumed Full, will call Guardian again
   # CONTACT:  [**First Name8 (NamePattern2) 13475**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 13477**], [**Telephone/Fax (1) 13478**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2196-3-8**] 12:15 AM 80 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-03-08 11:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M CP, presents with hypothermia and seizures
   Problems
   24 Hour Events:
   MRI within normal limits
   afebrile overnight with no further hypothermia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2196-3-6**] 07:24 AM
   Vancomycin - [**2196-3-6**] 09:09 AM
   Acyclovir - [**2196-3-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-8**] 02:00 AM
   Lorazepam (Ativan) - [**2196-3-8**] 06:00 AM
   Other medications:
   heparin 5000 tid
   acyclovir 800 q 8
   ativan 5
   thiamine
   keppra 500 4
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-8**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 89 (75 - 91) bpm
   BP: 133/64(81) {116/64(79) - 159/98(125)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  3,701 mL
                                                                  2,062 mL
   PO:
             TF:
                                                                  1,165 mL
                                                                    865 mL
   IVF:
                                                                  1,576 mL
                                                                    618 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  2,025 mL
   Urine:
                                                                  4,065 mL
                                                                  2,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -364 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No(t) Thin, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Rhonchorous: ), expiratory coarse wheeze,
   upper airway snoring
   Extremities: 3+ pedal edema b/l
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   12.3 g/dL
   119 K/uL
   93 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.2 mEq/L
   11 mg/dL
   109 mEq/L
   143 mEq/L
   35.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
                             [**2196-3-7**]  03:12 AM
                             [**2196-3-8**]  04:27 AM
   WBC
   4.8
   5.3
   4.9
   5.8
   Hct
   36.8
   35.7
   35.6
   35.0
   Plt
   127
   108
   110
   119
   Cr
   0.8
   1.0
   0.8
   0.7
   TCO2
   28
   Glucose
   85
   99
   89
   93
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: dilantin 92.2
   Assessment and Plan
   51 yo M with CP, MR, szr disorder presents with persistent
   szrs/hypothermia
   1. SZRs
    - cont AEDs including ativan, carba, pheny and keppra
    - aspiration precautions
   2. Hypothermia: likely related to szr disorder
   3. FEN: tube feeds
   ICU Care
   Nutrition:
   Replete (Full) - [**2196-3-8**] 12:15 AM 80 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined this pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) 192**]
   note, including assessment and plan. 51 yo male with CP, MR, seizure
   disorder admitted with AMS, ongoing seizures and hypothermia of unclear
   cause.  Evaluation for AMS has mostly revealed seizures ; negative MRI
   yesterday. Remains on acyclovir with HSV PCR CSF pending. Suspect
   neurologic basis behind hypothermia which appears to be improving. Plan
   transfer to neurology service.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2196-3-8**] 17:46 ------

2196-03-09 11:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-3-8**] 10:00 PM
   BC x2
 URINE CULTURE - At [**2196-3-8**] 10:00 PM
 CALLED OUT
   - called out but no neuro step-down beds available
   - neuro resident evaluated patient and discussed with attending - do
   not feel he is stable for the floor.  Please check dilantin level in AM
   (ordered.).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2196-3-9**] 07:37 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2196-3-9**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-3-9**] 10:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-9**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.6
C (96
   HR: 64 (64 - 99) bpm
   BP: 112/72(82) {112/57(77) - 143/89(100)} mmHg
   RR: 15 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  3,701 mL
                                                                  2,053 mL
   PO:
             TF:
                                                                  1,931 mL
                                                                    886 mL
   IVF:
                                                                    901 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                  2,120 mL
   Urine:
                                                                  5,265 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,564 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   GENERAL: not responsive, bear hugger in place
   HEENT: Lower lip appears swollen, would not cooperate with ENT exam.
   No partoid, mandibular or neck tenderness, no LAD, no thyromegaly
   appreciated.  Large tongue, Prominent upper airway expiratory
   wheeze/vibratory sound
   CARDIAC: S1 & s2 regular, unable to appreciate murmur
   LUNG:  course breath sounds throughout
   ABDOMEN: Non tender, non distended
   EXT: Significant edema to knees bilaterally,
   NEURO: withdraws to pain, occasionally opens R eye (which dilates) to
   voice. Unable to assess strength, distal sensation/pain intact.
   DERM: No lesions on posterior, no ulcers
   Labs / Radiology
   124 K/uL
   12.9 g/dL
   102 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.3 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   38.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
                             [**2196-3-7**]  03:12 AM
                             [**2196-3-8**]  04:27 AM
                             [**2196-3-9**]  04:23 AM
   WBC
   4.8
   5.3
   4.9
   5.8
   5.6
   Hct
   36.8
   35.7
   35.6
   35.0
   38.3
   Plt
   127
   108
   110
   119
   124
   Cr
   0.8
   1.0
   0.8
   0.7
   0.7
   TCO2
   28
   Glucose
   85
   99
   89
   93
   102
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
   A 51 year old gentleman with Cerebral Palsy, Mental retardation and an
   active seizure disorder presents with hypothermia, bradycardia,
   leukopenia and altered mental status after URI symptoms without clear
   localizing signs of infection.  Possible seizure.
   .
   #. Seizure disorder: causing altered mental status and likely upper
   airway issues related to noisty breathing.  On multiple anti-epileptics
   with a regimen guided by neurology.  Neurology would like her on their
   service.
   - Continue levetiracetam, carbamazepine, phenytoin
   - continue standing orazepam
   - Neuro recs
   #. Hypothermia:  resolved
   .
   #. Altered Mental Status:  More likely related to neurologic problems.
   [**Name (NI) **] evidence of sepsis.
   - continue acyclovir for empiric HSV encephalitis until PCR returns
   from CSF
   .
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: Presumed Full, will call Guardian again
   # CONTACT:  [**First Name8 (NamePattern2) 13475**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 13477**], [**Telephone/Fax (1) 13478**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete (Full) - [**2196-3-9**] 10:27 AM 80 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-03-09 13:05:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with CP, MR, seizure disorder admitted with AMS
   24 Hour Events:
 BLOOD CULTURED - At [**2196-3-8**] 10:00 PM
   BC x2
 URINE CULTURE - At [**2196-3-8**] 10:00 PM
 CALLED OUT
   Remained in unit as neuro step-down bed unavailable
   History obtained from Medical records, housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2196-3-9**] 07:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-9**] 10:27 AM
   Lorazepam (Ativan) - [**2196-3-9**] 12:12 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-9**] 01:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.7
C (96.2
   HR: 67 (64 - 99) bpm
   BP: 112/72(92) {112/57(77) - 143/89(100)} mmHg
   RR: 16 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102 kg
             Total In:
                                                                  3,701 mL
                                                                  2,376 mL
   PO:
             TF:
                                                                  1,931 mL
                                                                    995 mL
   IVF:
                                                                    901 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                  2,280 mL
   Urine:
                                                                  5,265 mL
                                                                  2,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,564 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   exp/insp wheezes)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Tracks to voice, per nurse [**First Name (Titles) **]
[**Last Name (Titles) 13598**]ful movement but not consistently following commands
   Labs / Radiology
   12.9 g/dL
   124 K/uL
   102 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.3 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   38.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2196-3-5**]  12:33 AM
                             [**2196-3-5**]  04:16 AM
                             [**2196-3-6**]  03:55 AM
                             [**2196-3-7**]  03:12 AM
                             [**2196-3-8**]  04:27 AM
                             [**2196-3-9**]  04:23 AM
   WBC
   4.8
   5.3
   4.9
   5.8
   5.6
   Hct
   36.8
   35.7
   35.6
   35.0
   38.3
   Plt
   127
   108
   110
   119
   124
   Cr
   0.8
   1.0
   0.8
   0.7
   0.7
   TCO2
   28
   Glucose
   85
   99
   89
   93
   102
   Other labs: PT / PTT / INR:13.9/31.5/1.2, Differential-Neuts:81.0 %,
   Lymph:12.8 %, Mono:5.5 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
   51 yo male with CP, MR, seizure disorder admitted with AMS, ongoing
   seizures and hypothermia of unclear cause.  Evaluation for AMS has
   mostly revealed seizures but no other etiology, negative MRI. Mental
   status appears to be improving today. HSV PCR negative so will stop
   acyclovir. Hypothermia resolving and probably of neurologic etiology;
   negative work-up infectious/endocrine/malnutritional/environmental
   causes.
   Plan transfer to floor today.
   ICU Care
   Nutrition:
   Replete (Full) - [**2196-3-9**] 10:27 AM 80 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-4**] 11:15 PM
   20 Gauge - [**2196-3-4**] 11:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: